US05023258
2-(2-Butyl)-4-(2-[4-(4-[2-(2,4-dichlorophenyl)-2-hydroxy-3-(1H-1,2,4-triazol-1-yl)prop-1-oxy]phenyl)piperazin-1-yl]pyridin-5-yl)-1,2,4-triazolin-3-one
A mixture of 2-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)oxirane (0.3 g, 1.1 mmole), 2-(2-butyl)-4-(2-[4-(4-hydroxyphenyl)piperazin-1-yl]pyridin-5-yl)-1,2,4-triazolin-3-one (see Preparation 5) (0.263 g, 0.67 mmole) and cesium carbonate (0.29 g, 0.89 mmole) in DMF (15 ml) was heated at 80° for 6 hours. The solvent was removed by concentration under reduced pressure and the residue was azeotroped with xylene (2×20 ml) under reduced pressure. The resulting material was partitioned between methylene chloride and water, the aqueous phase separated and re-extracted with methylene chloride. The combined organic extracts were washed with brine, dried over magnesium sulphate and concentrated under reduced pressure. The residual material was purified by flash chromatography on silica gel eluting with methylene chloride (97):methanol (3):0.88 ammonia solution (1). The product obtained, after collection and evaporation of appropriate fractions, was further purified by flash chromatography on silica gel eluting with methylene chloride (94.5):methanol (5.5):0.88 ammonia solution (4.5). The resulting material obtained, after collection and evaporation of appropriate fractions, was triturated with hexane to yield the desired product, m.p. 84°-87° (0.16 g, 36%).

reactant | 2-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)oxirane | 1.1 mmole, 0.3 g | ClC1=C(C=CC(=C1)Cl)C1(OC1)CN1N=CN=C1 | C11H9Cl2N3O
reactant | 2-(2-butyl)-4-(2-[4-(4-hydroxyphenyl)piperazin-1-yl]pyridin-5-yl)-1,2,4-triazolin-3-one | 0.67 mmole, 0.263 g | CC(CC)N1N=CN(C1=O)C=1C=CC(=NC1)N1CCN(CC1)C1=CC=C(C=C1)O | C21H26N6O2
reactant | cesium carbonate | 0.89 mmole, 0.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-(2-Butyl)-4-(2-[4-(4-[2-(2,4-dichlorophenyl)-2-hydroxy-3-(1H-1,2,4-triazol-1-yl)prop-1-oxy]phenyl)piperazin-1-yl]pyridin-5-yl)-1,2,4-triazolin-3-one | CC(CC)N1N=CN(C1=O)C=1C=CC(=NC1)N1CCN(CC1)C1=CC=C(C=C1)OCC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C32H35Cl2N9O3
